US06833387B1
t-Butyl N-(3,4-dichlorobenzyl)-3-morpholinoindole-2-carboxylate (t-butyl ester of Compound 72)
Pd2(dba)3 (114 mg), R-BINAP (69 mg), potassium t-butoxide (294 mg), and morpholine (0.209 ml) were added to a solution of t-butyl 3-bromo-N-(3,4-dichlorobenzyl)indole-2-carboxylate (1 g) in de-gassed toluene (6 ml), under an atmosphere of argon. The reaction was stirred and heated at 90° C. for 16 hours then poured into water (50 ml), extracted with ethyl acetate (3×50 ml), and the combined organic extracts were dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography using 10% ethyl acetate:iso-hexane as eluent, to afford the product as a yellow oil (325 mg, 33%); NMR d (CD3SOCD3) 3.20 (t, 4H), 3.73 (t, 4H), 5.56 (s, 2H), 6.88 (d, 1H), 7.7 (t, 1H), 7.25 (m, 2H), 7.50 (m, 2H), 7.80 (d, 1H), M/z (+) 461 (MH+), 405.

reactant | potassium t-butoxide | 294 mg | CC(C)([O-])C.[K+]
reactant | morpholine | 0.209 ml | N1CCOCC1 | C4H9NO
reactant | t-butyl 3-bromo-N-(3,4-dichlorobenzyl)indole-2-carboxylate | 1 g | BrC1=C(N(C2=CC=CC=C12)CC1=CC(=C(C=C1)Cl)Cl)C(=O)OC(C)(C)C | C20H18BrCl2NO2
reactant | water | 50 ml | O | H2O
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 114 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | t-Butyl N-(3,4-dichlorobenzyl)-3-morpholinoindole-2-carboxylate | 325 mg, 33% | ClC=1C=C(CN2C(=C(C3=CC=CC=C23)N2CCOCC2)C(=O)OC(C)(C)C)C=CC1Cl | C24H26Cl2N2O3
